US07030118B2
C) 3-Benzyl-5-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
Benzyl bromide (9.97 ml, 83.9 mmol) was added to a solution of 5-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (14 g, 76.3 mmol) and Cs2CO3 (29.7 g, 91.5 mmol) in dioxane (300 mL). The reaction mixture was stirred at 95° C. for 3 h, cooled to room temperature, filtered through Celite® and the filtrate concentrated in vacuo. The residue was dissolved in CHCl3 (100 mL), treated with saturated NaCl solution (200 mL), and extracted with CHCl3 (3×100 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The residue was triturated with Et2O, the solid filtered, washed with petroleum ether and dried in vacuo to afford the title compound (19.5 g, 94%) as a white solid: 1H NMR (DMF-d7) δ 7.57 (m, 1H), 7.32–7.41 (m, 5H), 6.65 (m, 1H), 5.31 (s, 2H), 2.38 (s, 3H); MS (ESI+) 274 (M++H), HRMS (ESI+): calculated: 274.0747 (M++H). found: 274.0757 (M++H).

reactant | Benzyl bromide | 83.9 mmol, 9.97 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 76.3 mmol, 14 g | ClC=1C=CN2N=C(NC(C21)=O)C | C7H6ClN3O
reactant | Cs2CO3 | 91.5 mmol, 29.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 3-Benzyl-5-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 19.5 g, 94% | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)Cl)C | C14H12ClN3O
